US08012971B2
(1) Synthesis of N-{2-[2-[(3-fluorophenyl)imino]-4-(4-morpholin-4-ylphenyl)-1,3-thiazol-3(2H)-yl]ethyl}-N′-methylurea hydrobromide
To a suspension of N-{2-[2-[(3-fluorophenyl)imino]-4-(4-morpholin-4-ylphenyl)-1,3-thiazol-3(2H)-yl]ethyl}-N′-methylurea (455 mg) in chloroform (50 ml) was added 25% HBr/AcOH (0.32 g), and the mixture was stirred to dissolve for 30 minutes. The solvent was removed, and then thereto was added diethylether and a precipitate was filtered to give crystals (520 mg) of which a melting point was 191 to 193° C.

reactant | N-{2-[2-[(3-fluorophenyl)imino]-4-(4-morpholin-4-ylphenyl)-1,3-thiazol-3(2H)-yl]ethyl}-N′-methylurea | 455 mg | FC=1C=C(C=CC1)N=C1SC=C(N1CCNC(=O)NC)C1=CC=C(C=C1)N1CCOCC1 | C23H26FN5O2S
reactant | HBr AcOH | 0.32 g | Br.CC(=O)O
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | N-{2-[2-[(3-fluorophenyl)imino]-4-(4-morpholin-4-ylphenyl)-1,3-thiazol-3(2H)-yl]ethyl}-N′-methylurea hydrobromide | 520 mg | Br.FC=1C=C(C=CC1)N=C1SC=C(N1CCNC(=O)NC)C1=CC=C(C=C1)N1CCOCC1 | InChI=1S/C23H26FN5O2S.BrH/c1-25-22(30)26-9-10-29-21(16-32-23(29)27-19-4-2-3-18(24)15-19)17-5-7-20(8-6-17)28-11-13-31-14-12-28;/h2-8,15-16H,9-14H2,1H3,(H2,25,26,30);1H
